US08304419B2
Step C: 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile
A solution of 3-{[6-bromo-3-(bromomethyl)-2-fluorophenyl]oxy}-5-chlorobenzonitrile (2.5 g, 5.96 mmol) in tetrahydrofuran (THF) (50 mL) was added dropwise to a 7M solution of ammonia in MeOH (42.6 mL, 298 mmol) at RT under nitrogen. The reaction was stirred for 16 h then the reaction mixture was evaporated to dryness. Ethyl acetate and saturated aqueous sodium bicarbonate were added to the residue and the mixture was shaken in a separatory funnel. The organic layer was dried over sodium sulfate and the solvent was evaporated. The residue was purified by chromatography with hexane:ethyl acetate to give the title compound (0.453 g, 21%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.76 (s, 1H), 7.56 (d, 1H), 7.39-7.46 (m, 2H), 7.37 (m, 1H), 3.70 (s, 2H), 1.85 (br. s., 2H).

reactant | 3-{[6-bromo-3-(bromomethyl)-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 5.96 mmol, 2.5 g | BrC1=CC=C(C(=C1OC=1C=C(C#N)C=C(C1)Cl)F)CBr | C14H7Br2ClFNO
reactant | ammonia | N | H3N
reactant | MeOH | 298 mmol, 42.6 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-{[3-(aminomethyl)-6-bromo-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.453 g, 21% | NCC=1C(=C(C(=CC1)Br)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9BrClFN2O
